Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever up to ___
 
Major Surgical or Invasive Procedure:
I&D, removal of ankle hardware ___

 
History of Present Illness:
___ yo M admitted to ___ ___, now readmitted after
returning from his facility on the day of discharge.
During his admission, pt with ARF (5.9) attributed to 
obstructive
uropathy and Aerococcus bacteremia/UTI, along with ileus
requiring NGT placement.  He completed a course of abx by ___. 
Creat improved to 1.2 by the time of discharge, with indwelling
___ in place.  He had urethral erosion attributed to ___;
urology recommended bacitracin.  His NGT was removed during the
admission.  During the admission, there was concern for elder
abuse; the case was referred to Elder Protective Servies.  He
also had diarrhea attributed to his tube feeds; this resolved
after tube feeds were discontinued.

He was sent to ___ on ___.  He returned later that day, as
the facility was concerned about the Protective Services review
that had been opened toward the patient's son/HCP.  In the ED, 
he
had T 101 and prostate tenderness to palpation, so was treated
with levofloxacin for prostatitis.  He is admitted for further
care.

On admission, he states that he feels completely well.  He 
states
that he feels safe with his son.

REVIEW OF SYSTEMS:
CONSTITUTIONAL:  [X] All normal
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  [X] All normal
GU:  As per HPI
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
10 point review of systems negative except as noted above

PMH:
DM2
HTN
BPH/urinary retention
UTI

 
Past Medical History:
DMTII 
HTN 
BPH c/b urinary retention 

 
Social History:
___
Family History:
Unable to obtain 
 
Physical Exam:
Admission:
Physical Exam: Tm 100.4 Tc 98.2  80   121/67  94-100% (RA)
GENERAL:  NAD
Mentation:  Alert
Eyes:  NC/AT
Ears/Nose/Mouth/Throat:  Hard of hearing
Neck:  Supple
Resp:  CTA bilat
CV:  RRR, normal S1S2
GI:  Soft, NT/ND
GU:  + foley
Skin:  No rash
Extremities:  No edema
Lymph/Heme/Immun:  No cervical ___ noted
Neuro: Alert & oriented to person, place, "the ___

===========================================================
Discharge:
___ 0733 Temp: 97.8 PO BP: 111/56 L Lying HR: 85 RR: 18 O2
sat: 94% O2 delivery: Ra 
GENERAL: Alert, NAD
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 06:07AM BLOOD WBC-8.8 RBC-2.61* Hgb-8.3* Hct-25.2* 
MCV-97 MCH-31.8 MCHC-32.9 RDW-18.7* RDWSD-64.9* Plt ___
___ 09:14AM BLOOD Neuts-61.0 ___ Monos-11.7 Eos-3.4 
Baso-0.9 Im ___ AbsNeut-5.81 AbsLymp-2.14 AbsMono-1.12* 
AbsEos-0.32 AbsBaso-0.09*
___ 06:07AM BLOOD Glucose-123* UreaN-24* Creat-1.1 Na-144 
K-4.6 Cl-107 HCO3-28 AnGap-9*
___ 06:07AM BLOOD Calcium-8.1* Phos-3.5 Mg-1.9
___ 09:11AM URINE Color-Straw Appear-Clear Sp ___
___ 09:11AM URINE Blood-MOD* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-LG*
___ 09:11AM URINE RBC-11* WBC-47* Bacteri-FEW* Yeast-NONE 
Epi-<1 TransE-<1

DISCHARGE LABS
___: WBC: 7.9
___: HGB: 8.5*
___: HCT: 26.4*
___: Plt Count: 336
___: ___: 12.8*
___: INR: 1.2*
___: PTT: 28.3
___: Na: 135 (New reference range as of ___: K: 4.2 (New reference range as of ___: Cl: 99
___: CO2: 23
___: BUN: 13
___: Creat: 1.1
___: eGFR: ___
For eGFR, the first (lower) value is for ___, 
the second (higher) value is for ___
___: Glucose: 102* (If fasting, 70-100 normal, >125 
provisional diabetes)
___: Ca: 8.7
___: Mg: 1.7
___: PO4: 3.4
___: ALT: 9
___: AST: 17
___: Alk Phos: 82
___: Total Bili: 0.5
___: Alb: 2.7*
___: LDH: 209

OTHER LABS:
CRP 91 (___)
Vancomycin ___ trough)

Surgical wound culture:
___ 10:20 am SWAB     Site: ANKLE      RIGHT ANKLE. 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS.
   WOUND CULTURE (Preliminary): 
      ___ (___) REQUESTS SUSCEPTIBILITIES PLUS 
DAPTOMYCIN AND
      LINEZOLID. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    SPARSE GROWTH. 
   ANAEROBIC CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         Mixed bacteria are present, which may include anaerobes 
and/or
         facultative anaerobes. Bacterial growth was screened 
for the
         presence of B.fragilis, C.perfringens, and C.septicum. 
None of
         these species was found. 
   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

URINE CULTURE (Final ___:
                             ENTEROBACTER CLOACAE COMPLEX
                             |   
CEFEPIME--------------       R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----       R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

CXR - IMPRESSION:
1. Mild pulmonary edema is new from ___.
2. Moderate left and small right dependent pleural effusions.
3. Increased parenchymal opacities in the bilateral lung bases 
likely reflects
a combination of atelectasis and edema.  However, a superimposed 
infectious
process cannot be excluded.

R Ankle Plain Films - IMPRESSION: 
1.  No acute fracture or dislocation of the right tibia/fibula 
and right foot.
2.  Plate and screw fixation of the distal fibula.
3.  Mild degenerative changes of the first MTP joint.

Surgical Pathology ___:
Bone, ankle, right fibula, debridement:
- Fragments of trabecular bone with marrow space fibrosis and
remodelling changes; no acute
osteomyelitis identified.
- Overlying skin and subcutaneous tissue with dense plasma-cell
rich chronic inflammation.

 
Brief Hospital Course:
___ y/o M with PMHx of HTN, DMII, BPH s/p Foley, recent admission 
for Aerococcus UTI complicated by bacteremia, admitted ___ after 
presenting with fever up to 101, concerning for recurrent UTI 
and/or prostatitis, and found to have open R foot wound with 
exposed hardware, s/p hardware removal.  

# Enterobacter UTI, possible prostatitis
Pt with recent Aerococcus infection (UTI/bloodstream infection) 
s/p CTX x2 weeks of therapy (completed ___. Per ED, there was 
concern for acute prostatitis given fever up to ___ F and 
prostate tenderness as well as positive UA. Urine cultures with 
Enterobacter sensitive to cipro. Blood cultures negative. Pt has 
been afebrile and hemodynamically stable since admission and 
appears non-toxic. Seen by ID. Plan is 6 weeks of cipro, through 
___. 

# BPH/urinary retention/ventral urethral meatus ulcer
Patient seen by urology on ___. Failed voiding trial ___. Foley 
clogged ___ due to recurrent clots requiring replacement, 
likely in setting of reduced flushing of Foley, but was stable 
once frequent flushing was resumed. Ulcer treated with BID 
bacitracin per urology recommendations and patient should 
follow-up in ___ clinic. Continued on home finasteride and 
tamsulosin. 

# R ankle pain
# Exposed hardware s/p hardware removal
# Coag negative staph soft tissue infection
Exposed hardware, elevated CRP, initially presumed osteo, 
underwent hardware removal, although path from OR not indicative 
of osteo. Wound cultures growing sparse coag neg staph, so per 
ID treating for soft tissue CoNS infection with vanc/flagyl for 
total 2 week course (vanc through ___, flagyl through ___. 
Vanc trough low on ___, so dose increased on ___. Will need 
repeat vanc trough level on ___ and titration of dose as 
necessary for goal trough ___. Needs ortho follow-up scheduled 
(see below)

# HTN: 
Continued on home lisinopril and amlodipine. 

# DM2: 
Minimal insulin requirement, so this was discontinued

#Anemia
Normocytic anemia with stable hgb in ___ range. Likely 
multifactorial including infection (labs from last admission 
suggest inflammatory component. Continue to monitor 
intermittently as underlying conditions treated

===========================
TRANSITIONAL/FOLLOW-UP ISSUES

- please call ___ ___ to set up orthopedic follow-up 
with ___, NP for ___ weeks from discharge
- completion of 6 week cipro course through ___
- completion of 2 week vanc course through ___
- completion of 2 week course of flagyl through ___
- needs vanc trough level drawn on ___ titrate vanc dose as 
appropriate for goal trough ___
- flush Foley q4-6 hours to avoid clogging
- bacitracin BID to urethral meatal ulcer and avoid tension on 
Foley
- awaiting scheduling of urology follow-up with ___ at 
At___. Please call if  not been set-up within one week
- also awaiting scheduling of ID follow-up

===========================

>30 minutes in patient care and coordination of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Lisinopril 40 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
6. amLODIPine 5 mg PO DAILY 
7. Bacitracin Ointment 1 Appl TP BID Urethral ulcer 
8. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO/NG Q12H  
2.  MetroNIDAZOLE 500 mg PO TID  
3.  Vancomycin 1250 mg IV Q 24H  
4.  amLODIPine 5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Bacitracin Ointment 1 Appl TP BID Urethral ulcer  
7.  Finasteride 5 mg PO DAILY  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Lisinopril 40 mg PO DAILY  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___ and ___)
 
Discharge Diagnosis:
Acute Urinary Tract Infection (catheter associated)
Acute Prostatitis
Open wound on right ankle
Coag negative staph soft tissue infection
BPH
Urethral meatus ulcer
Diabetes

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You presented with a urinary tract infection as well as acute 
prostatitis. You were treated with an antibiotic called cipro. 
There was also concern for an infection around your ankle 
hardware, which was removed by orthopedic surgery. You will 
continue with an antibiotic called vancomycin and one called 
metronidazole to treat an infection around the hardware. 

 
Followup Instructions:
___